data/rdb19/train.csv
rxn,smiles,ea
2397,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8](=[C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])[H:18])([H:16])[H:17]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:10]1([C:9](=[C:8]([H:16])[H:17])[H:18])[C:11]([H:19])[C:12]([H:20])=[C:13]([H:21])[C:14]([H:22])=[C:15]1[H:23],44.47694669000339
3782,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:20]([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])([O:21])[H:26],46.3397068354534
2267,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[C:10]([H:15])[H:16])[C:11]([H:17])([H:18])[H:19])([H:12])([H:13])[H:14]>>[C:1]([C:2]([H:3])([H:4])[H:15])([H:5])([H:6])[H:7].[C:8]([C:9](=[C:10][H:16])[C:11]([H:17])([H:18])[H:19])([H:12])([H:13])[H:14],26.93725082802121
143,[C:12]([C:13]([C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:16]1([C:14]([C:13]([C:12]([H:22])([H:23])[H:24])([H:25])[H:26])([C:15]([H:28])([H:29])[H:30])[H:27])[C:17]([H:31])[C:18]([H:32])=[C:19]([H:33])[C:20]([H:34])=[C:21]1[H:35])([H:6])([H:7])[H:8],31.092095698288176
1872,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:15]([C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10],15.52642444439698
842,[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])([C:23]([H:24])[H:25])[H:29])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])([H:12])[C:23]([C:21]([O:20][C:19]([H:26])([H:27])[H:28])([C:22]([H:30])([H:31])[H:32])[H:29])([H:24])[H:25],65.00753045792226
1513,[C:10]([C:11]([C:12]([H:13])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])([H:23])[H:24])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:4](=[C:5]([H:8])[H:9])[H:7].[O:1]([C:2](=[O:3])[C:12]([C:11]([C:10]([H:20])([H:21])[H:22])([H:23])[H:24])([H:13])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:6],42.291696044034325
430,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([O:8][C:9](=[O:10])[C:11](=[C:12]([H:17])[H:18])[C:13]([H:19])([H:20])[H:21])([H:14])([H:15])[H:16]>>[C:1]([O:2][O:3][H:15])([H:4])([H:5])[H:6].[C:7]([O:8][C:9](=[O:10])[C:11](=[C:12]([H:17])[H:18])[C:13]([H:19])([H:20])[H:21])([H:14])[H:16],27.486596927104983
1801,[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18]=[O:19])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[O:20][H:26])([H:11])[H:12])([H:8])([H:9])[H:10],54.63681414804887
5011,[C:11]([C:12]([C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[C:13]([C:12]([C:11]([H:17])([H:18])[H:19])([H:20])[H:21])([H:14])[O:15][C:16]([H:22])([H:23])[H:24].[O:2][C:3](=[C:4]([H:9])[H:10])[H:8],46.04656880558469
4955,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]1([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[C:16]([C:15]([H:21])([H:22])[H:23])([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])[O:17]1,81.93246748187812
2953,[C:16]([O:17][C:18](=[O:19])[C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23]([H:24])[H:25])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]=[C:7]([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:23]([C:20]([C:18]([O:17][C:16]([H:26])([H:27])[H:28])=[O:19])([C:21]([H:29])([H:30])[H:31])[C:22]([H:32])([H:33])[H:34])([H:24])[H:25],24.66538281110116
